US08357711B2
4-{[(5-Chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-cyano-N-[4-(trifluoromethyl)benzyl]benzamide
The title compound was prepared from 4-(trifluoromethyl)benzylamine and 4-{[(5-chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-cyanobenzoic acid of Preparation 22, following Method O described for Example 344. The reaction mixture was stirred at room temperature for 18 hours.

reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 4-{[(5-chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-cyanobenzoic acid | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)C#N | C11H6ClN3O4S2
product | 4-{[(5-Chloro-1,3-thiazol-2-yl)amino]sulfonyl}-2-cyano-N-[4-(trifluoromethyl)benzyl]benzamide | ClC1=CN=C(S1)NS(=O)(=O)C1=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C=C1)C#N | C19H12ClF3N4O3S2
